US09284308B2
(1-Methyl-1H-1,2,3-triazol-5-yl)(6-(trifluoromethyl)pyridin-3-yl)methanone
To a 25 mL flask containing (1-methyl-1H-1,2,3-triazol-5-yl)(6-(trifluoromethyl)pyridin-3-yl)methanol (1 g, 3.87 mmol, Intermediate 53: step a) in 1,4-dioxane (10 mL) was added manganese dioxide (2.67 g, 30.65 mmol). The mixture was stirred in an 80° C. oil bath for 2 hours, then cooled to room temperature, diluted with EtOAc and filtered through Celite®. The solvents were removed under reduced pressure and the residue chromatographed (0-100% EtOAc/heptane gradient) to provide the title compound.

reactant | (1-methyl-1H-1,2,3-triazol-5-yl)(6-(trifluoromethyl)pyridin-3-yl)methanol | CN1N=NC=C1C(O)C=1C=NC(=CC1)C(F)(F)F | C10H9F3N4O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | manganese dioxide | 30.65 mmol, 2.67 g | [O-2].[O-2].[Mn+4]
product | (1-Methyl-1H-1,2,3-triazol-5-yl)(6-(trifluoromethyl)pyridin-3-yl)methanone | CN1N=NC=C1C(=O)C=1C=NC(=CC1)C(F)(F)F | C10H7F3N4O
